US07601714B2
To a solution of 4-methoxy-pyridine-3-carbaldehyde (2.1 g, 14.9 mmol) in MeOH (70 mL) cooled to 0° C. was added sodium borohydride (0.67 g, 17.7 mmol) as a solid in one portion. The reaction was allowed to slowly warm to room temperature and stirred for 2 h. Excess hydride was consumed by the addition of water and the reaction mixture was concentrated under reduced pressure. The residue was taken back up in EtOAc and washed with water. The aqueous phase was back extracted with EtOAc and the combined organic phase was washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude residue was purified by flash silica gel chromatography using a 95:5 CH2Cl2:MeOH as an eluent to provide, after concentration, to give 1.1 g (55%) of (4-methoxy-pyridin-3-yl)-methanol as a white solid.

reactant | 4-methoxy-pyridine-3-carbaldehyde | 14.9 mmol, 2.1 g | COC1=C(C=NC=C1)C=O | C7H7NO2
reactant | sodium borohydride | 17.7 mmol, 0.67 g | [BH4-].[Na+]
solvent | MeOH | 70 mL | CO | CH4O
product | (4-methoxy-pyridin-3-yl)-methanol | 1.1 g, 55% | COC1=C(C=NC=C1)CO | C7H9NO2
